US08975252B2
Trimethylboroxin (513 μL), potassium carbonate (1.27 g) and bis(diphenylphosphino)ferrocene dichloropalladium (224 mg) were added to a solution of methyl 3-bromo-1-(3-methoxypropyl)-1H-indazol-6-carboxylate (1.0 g) in 1,4-dioxane (15 ml) under argon atmosphere and the mixture was stirred at 110° C. for 6 hours. Water was added to the reaction mixture under ice-cooling and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=4/1 to 3/2) to give methyl 1-(3-methoxypropyl)-3-methyl-1H-indazol-6-carboxylate (705 mg) as a yellow powder.

reactant | Trimethylboroxin | 513 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-bromo-1-(3-methoxypropyl)-1H-indazol-6-carboxylate | 1.0 g | BrC1=NN(C2=CC(=CC=C12)C(=O)OC)CCCOC | C13H15BrN2O3
reactant | Water | O | H2O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene dichloropalladium | 224 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 1-(3-methoxypropyl)-3-methyl-1H-indazol-6-carboxylate | 705 mg | COCCCN1N=C(C2=CC=C(C=C12)C(=O)OC)C | C14H18N2O3
